US09278953B2
Step 1: (R)-3-(2-methoxy-6-(1-methyl-1H-indol-5-yl)pyridin-3-yl)-3-methylpyrrolidin-2-one
To a vial was added (R)-3-(6-chloro-2-methoxypyridin-3-yl)-3-methylpyrrolidin-2-one (56.6 mg, 0.24 mmol) which was evaporated with dioxane (2.0 mL). 1-methyl-1H-indol-5-ylboronic acid (63.4 mg, 0.36 mmol) was next added followed by Pd(dppf)Cl2 (7.5 mg, 0.01 mmol). The mixture was sealed and degassed with nitrogen. Degassed dioxane (1.9 mL) and degassed 2 M Na2CO3 (0.27 mL, 2.3 equiv) were then added to the solid mixture. The reaction was stirred for 16 h at 110° C. The reaction was concentrated and partitioned between EtOAc/10% (w/v) aq. Na2CO3. The organic layer was washed with brine, dried over Na2SO4, and concentrated to provide a crude brown glass. Purification by column chromatography (4 g RediSep Gold column) with a 40-100% EtOAc/heptane gradient provided the title compound (78 mg, 99%) as a pale yellow glass. 1H NMR (600 MHz, CDCl3) δ: 1.62 (s, 3H), 2.10 (ddd, 1H), 2.67-2.76 (m, 1H), 3.37-3.47 (m, 2H), 3.82 (s, 3H), 4.10-4.12 (m, 3H), 5.59 (br. s., 1H), 6.56 (d, 1H), 7.07 (d, 1H), 7.34-7.39 (m, 2H), 7.67 (d, 1H), 7.92-7.96 (m, 1H), 8.30 (s, 1H); MS (AP+)(M+H) 336. The absolute stereochemistry was obtained via X-ray crystallographic analysis of single crystals obtained via crystallization from a mixture of DCM and EtOH. FIG. 2 is an ORTEP drawing of (R)-3-(2-methoxy-6-(1-methyl-H-indol-5-yl)pyridin-3-yl)-3-methylpyrrolidin-2-one.

reactant | (R)-3-(6-chloro-2-methoxypyridin-3-yl)-3-methylpyrrolidin-2-one | 0.24 mmol, 56.6 mg | ClC1=CC=C(C(=N1)OC)[C@@]1(C(NCC1)=O)C | C11H13ClN2O2
reactant | 1-methyl-1H-indol-5-ylboronic acid | 0.36 mmol, 63.4 mg | CN1C=CC2=CC(=CC=C12)B(O)O | C9H10BNO2
reactant | Na2CO3 | 2 M, 0.27 mL, 2.3 equiv | C(=O)([O-])[O-].[Na+].[Na+]
catalyst | Pd(dppf)Cl2 | 0.01 mmol, 7.5 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
solvent | dioxane | 1.9 mL | O1CCOCC1 | C4H8O2
product | (R)-3-(2-methoxy-6-(1-methyl-1H-indol-5-yl)pyridin-3-yl)-3-methylpyrrolidin-2-one | 78 mg, 99% | COC1=NC(=CC=C1[C@@]1(C(NCC1)=O)C)C=1C=C2C=CN(C2=CC1)C | C20H21N3O2
